US04367235
Acetylation of 6-amino-5-indanol with acetic anhydride in ethyl acetate/pyridine gives 6-acetamido-5-acetoxyindan (m.p. 157°-158° C.), reaction of which with nitric acid in acetic anhydride gives 5-acetamido-6-acetoxy-4-nitroindan (m.p. 168°-170° C.). Acid saponification of this compound with hydrochloric acid gives 6-amino-7-nitro-5-indanol (m.p. 196°-198° C.), which is then reacted with 3-chloro-1,2-epoxypropane in dilute aqueous sodium hydroxide solution to give 5-amino-6-(2,3-epoxypropoxy)-4-nitroindan in the form of a dark oil, reaction of which with tert.-butylamine gives 5-amino-6-(2-hydroxy-3-tert.-butylaminopropoxy)-4-nitroindan in the form of an amorphous hydrochloride. Hydrogenation thereof in ethanolic solution in the presence of platinum dioxide gives 4,5-diamino-6-(2-hydroxy-3-tert.-butylaminopropoxy)-indan in the form of an amorphous trihydrochloride.

reactant | 6-acetamido-5-acetoxyindan | C(C)(=O)NC1=C(C=C2CCCC2=C1)OC(C)=O | C13H15NO3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 5-acetamido-6-acetoxy-4-nitroindan | C(C)(=O)NC=1C(=C2CCCC2=CC1OC(C)=O)[N+](=O)[O-] | C13H14N2O5
